US04511391
An aqueous solution of 10% sodium hydroxide (3.5 ml) was added dropwise to a solution of piperonal (20.0 g) in acetone (27 ml) and water (14 ml), the temperature of the reaction mixture being maintained below 30° C. during the addition. On completion of the reaction (ca 2 hr) the reaction mixture was poured into water and the precipitate was filtered off and dried to give 1-(3,4-methylenedioxyphenyl)but-1-en-3-one as a crystalline solid, mp 108° C. (from ethanol).

reactant | sodium hydroxide | 3.5 ml | [OH-].[Na+]
reactant | piperonal | 20.0 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | acetone | 27 ml | CC(=O)C | C3H6O
solvent | water | 14 ml | O | H2O
product | 1-(3,4-methylenedioxyphenyl)but-1-en-3-one | C1OC=2C=C(C=CC2O1)C=CC(C)=O | C11H10O3
